US06838463B2
To 2 ml of N,N-dimethylformamide were added 183 mg of 4-chloro-6-(2-butynyloxy)pyrimidine, 166 mg of potassium carbonate, and 87 mg of N-ethylpropylamine, followed by stirring at 60° C. for 7 hours. Then, 166 mg of potassium carbonate and 87 mg of N-ethylpropylamine were added, and the mixture was stirred at a bath temperature of 60° C. for 6 hours. The reaction mixture was then left for cooling to room temperature and subjected to phase separation three times between ethyl acetate and an aqueous sodium chloride solution. The organic layer was dried over anhydrous magnesium sulfate and then concentrated. The residue was subjected to silica gel thin layer chromatography to give 136 mg of 4-(2-butynyloxy)-6-(N-ethyl-N-propylamino)pyrimidine (the present compound (104)).

reactant | 4-chloro-6-(2-butynyloxy)pyrimidine | 183 mg | ClC1=NC=NC(=C1)OCC#CC | C8H7ClN2O
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethylpropylamine | 87 mg | C(C)NCCC | C5H13N
reactant | potassium carbonate | 166 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N-ethylpropylamine | 87 mg | C(C)NCCC | C5H13N
solvent | N,N-dimethylformamide | 2 ml | CN(C=O)C | C3H7NO
product | 4-(2-butynyloxy)-6-(N-ethyl-N-propylamino)pyrimidine | 136 mg | C(C#CC)OC1=NC=NC(=C1)N(CCC)CC | C13H19N3O
